US08076517B2
Benzyl carbazate (300 g, 1.81 moles) was dissolved in 1.2 L of methyl alcohol in a 3 L 4-neck flask equipped with reflux condenser, thermometer, magnetic stirring, and a 500 mL addition funnel. Glacial acetic acid (5 mL) was added to the mixture that was then brought to 45° C. Pivaldehyde (248.8 g of solution, 2.17 moles, ca. 75% in t-butanol) was added portionwise over 30 minutes. The reaction was heated at reflux for 30 minutes, while monitoring by TLC. The mixture was allowed to cool to nearly room temperature and was concentrated on a rotary evaporator to a total volume of ca. 700 mL. Ca. 7 g activated charcoal was added at ca. 30° C. The mixture was stirred overnight and filtered through a pad of Celite in a pore size “C” glass fritted Büchner funnel. The solvent was removed in vacuo to leave a light yellow oil that was poured into a crystallizing dish and induced to crystallize by manipulation with a spatula. The material was granulated and residual solvent was allowed to evaporate in air at room temperature for several days, leaving 420.4 g crude product. Recrystallization at room temperature from an initially boiling mixture of 300 mL ethyl acetate and 1 L hexanes produced 363.2 g of (E)-N′-(2,2-dimethyl-propylidene)-hydrazinecarboxylic acid benzyl ester as an off-white solid. A second crop of 43.1 g and identical melting point was obtained from a mixture of ca. 150 mL hexanes and 45 mL ethyl acetate. Total yield: 96.1%. Rf=0.32 (2:1 hexanes:ethyl acetate); mp=74-74.5° C.; 1H NMR (400 MHz, CDCl3) δ 8.0 (1H, br s), 7.4-7.3 (5H, m), 7.1 (1H, s), 5.20 (2H, s), 1.1 (9H, s).

reactant | Benzyl carbazate | 1.81 moles, 300 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | Pivaldehyde | 2.17 moles, 248.8 g | CC(C)(C)C=O | C5H10O
solvent | methyl alcohol | 1.2 L | CO | CH4O
product | (E)-N′-(2,2-dimethyl-propylidene)-hydrazinecarboxylic acid benzyl ester | 363.2 g, yield: 96.1% | C(C1=CC=CC=C1)OC(=O)N/N=C/C(C)(C)C | C13H18N2O2
